Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
pericardial drain placement ___
transvenous pacer placement ___
 
History of Present Illness:
Mr. ___ is a ___ with PMH of HTN who does not follow 
regularly with a physician who initially presented to ___ 
with 4 days of intermittent chest pain found to have ST 
elevations in the inferior leads with initial concern for STEMI. 
The patient signed out AMA prior to full work-up now 
re-presenting with persistent chest pain found to have a dilated 
ascending aorta with course complicated by shock, enlarging 
pericardial effusion and worsening chest pain now transferred to 
the CCU for further management.

Per OSH records and medical chart, the patient states that he 
developed chest pain 4 days ago that was different than the his 
chronic chest pain. The pain is substernal that radiates to the 
neck. Worse at night and relieved with exercise. Had associated 
SOB, but no diaphoresis. No pedal edema, syncope, or pedal 
edema. He presented to ___ and was noted to have slight 
elevations in the inferior leads (II, III, aVF). He signed out 
AMA and re-presented to ___ today with persistent chest 
pain. 

In regards to his history, the patient states that he has a 
history of a bicuspid aortic valve that was diagnosed in ___ 
via echo. He has a long standing history of palpitations and 
chest pain and was seen ___ years ago at ___. He was 
previously seen by a Cardiologist and underwent a stress test 
that was negative. He was placed on atenolol which he later 
discontinued because he did not like how the medication made him 
feel. He was later lost to follow-up. Of note, he had an episode 
of syncope in ___ for which he presented to ___. There, he 
was found to have an aortic aneurysm (told it was 2.3cm). He was 
again lost to follow-up.
 
Past Medical History:
1. CARDIAC RISK FACTORS   
- Hypertension   
2. CARDIAC HISTORY  
-Bicuspid aortic valve
3. OTHER PAST MEDICAL HISTORY
-Alcohol abuse  

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death. 
 
Physical Exam:
Admission exam:
===============
VS: 98.6  120  ___  100% NRB
GENERAL: Ruddy face, very diaphoretic, uncomfortable appearing
HEENT: Normocephalic atraumatic. Sclera anicteric. Cyanotic 
appearing mucosa  
CARDIAC: Tachycardic, regular, no murmurs appreciated
LUNGS: Tachpneic. Clear to auscultation. 
ABDOMEN: Soft, ND, NTTP
EXTREMITIES: Cold, no edema. 

Interval exam:
==============
Deceased in cath lab on ___ following CPR. 
 
Pertinent Results:
All labs:
=========
___ 07:39PM BLOOD WBC-6.4 RBC-3.68* Hgb-13.1* Hct-37.8* 
MCV-103* MCH-35.6* MCHC-34.7 RDW-11.9 RDWSD-45.1 Plt ___
___ 02:32AM BLOOD WBC-6.2 RBC-3.63* Hgb-12.7* Hct-38.5* 
MCV-106* MCH-35.0* MCHC-33.0 RDW-12.1 RDWSD-47.8* Plt ___
___ 07:39PM BLOOD ___ PTT-28.6 ___
___ 02:32AM BLOOD ___ PTT-24.8* ___
___ 07:39PM BLOOD ___
___ 07:39PM BLOOD UreaN-13 Creat-0.7
___ 02:32AM BLOOD Glucose-152* UreaN-12 Creat-0.8 Na-138 
K-4.2 Cl-102 HCO3-17* AnGap-23*
___ 07:39PM BLOOD CK(CPK)-137
___ 02:32AM BLOOD ALT-69* AST-22 LD(LDH)-207 CK(CPK)-108 
AlkPhos-70 TotBili-1.3
___ 07:39PM BLOOD CK-MB-1
___ 07:39PM BLOOD cTropnT-<0.01
___ 02:32AM BLOOD CK-MB-1 cTropnT-<0.01
___ 07:39PM BLOOD Lipase-69*
___ 02:32AM BLOOD Albumin-4.4 Calcium-9.0 Phos-3.4 Mg-2.4
___ 07:39PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:44PM BLOOD ___ pO2-43* pCO2-35 pH-7.40 
calTCO2-22 Base XS--1 Comment-GREEN TOP 
___ 02:38AM BLOOD ___ pO2-181* pCO2-34* pH-7.34* 
calTCO2-19* Base XS--6 Comment-GREEN TOP
___ 07:44PM BLOOD Glucose-105 Lactate-2.1* Na-140 K-3.9 
Cl-106
___ 02:38AM BLOOD Lactate-3.9*
___ 07:44PM BLOOD Hgb-13.7* calcHCT-41 O2 Sat-73 COHgb-2 
MetHgb-0
___ 07:44PM BLOOD freeCa-1.08*

Micro:
======
none

Studies:
========
CTA chest preliminary read ___
Pulmonary vasculature is well opacified to the subsegmental 
level without 
filling defect to indicate a pulmonary embolus. The pulmonary 
artery is 
markedly dilated, measuring 4.2 cm in maximum diameter; 
suggestive of 
pulmonary hypertension. 
  
The aortic root and ascending aorta is markedly dilated, 
measuring 5.3 cm in maximum diameter. The aortic arch and 
descending aorta is normal in caliber. The major branching 
vessels of the aorta are patent, with no evidence of stenosis, 
occlusion, dissection, or aneurysmal formation. There is no 
evidence of penetrating atherosclerotic ulcer or aortic arch 
atheroma present. There is moderate to severe cardiomegaly. 
There is no supraclavicular, axillary, mediastinal, or hilar 
lymphadenopathy. 
The thyroid gland appears unremarkable.  Bronchial wall 
thickening suggests small airway disease. There is a minimal 
bibasilar atelectasis. The airways are patent to the 
subsegmental level. There is trace pericardial effusion. There 
is no pleural effusion. 

TEE ___
The aortic root is moderately dilated at the sinus level. The 
ascending aorta is moderately dilated. A mobile density is seen 
in the ascending aorta consistent with an intimal flap/aortic 
dissection. There is flow in the false lumen. The aortic valve 
is bicuspid with fusion of the right and non-coronary cusps. 
Severe (4+) aortic regurgitation is seen. The mitral valve 
leaflets are not well seen. There is a small pericardial 
effusion. The effusion is echo dense, consistent with blood, 
inflammation or other cellular elements. IMPRESSION: Aortic 
dissection involving only the aortic root (type A). Bicuspid 
aortic valve with severe aortic regurgitation. Pericardial 
effusion. 

TTE complete ___
There is mild regional left ventricular systolic dysfunction 
with hypokinesis of the basal to mid inferoseptal and inferior 
walls. Overall left ventricular systolic function is mildly 
depressed (LVEF= 40-45 %)). Right ventricular chamber size is 
normal with mild global free wall hypokinesis. The aortic root 
is mildly dilated at the sinus level. The aortic valve is 
bicuspid. Moderate (2+) aortic regurgitation is seen. The mitral 
valve leaflets are structurally normal. Mild (1+) mitral 
regurgitation is seen. There is a large pericardial effusion. 
The effusion appears circumferential. The effusion is echo 
dense, consistent with blood, inflammation or other cellular 
elements. There is right ventricular diastolic collapse, 
consistent with impaired fillling/tamponade physiology. 
IMPRESSION: Large, echo dense, circumferential pericardial 
effusion with tamponade physiology. Mildly dilated aortic root. 
Bicuspid aortic valve with moderate aortic regurgitation. Mild 
regional left ventricular systolic dysfunction. Mild mitral 
regurgitation.  

Cath report ___
echo showed large pericardial effusion that accumulated over ___ 
hours. Dissection was suspected and with hypotension, we elected 
to drain the effusion with cardiac surgery and TEE team present. 
difficult pericardial drainage, bloody fluid (>300 ml). Then 
patient had cardiac arrest and could not ___ SC. pronounced 
dead at 5:01 am
 
Brief Hospital Course:
___ year old male who presented with 4 days of chest 
pain,transferred from OSH for concern of ST elevation in 
inferior leads. On initial evaluation in the ED patient reported 
___ chest pain with LVH, ___levation in inferior leads, 
no reciprocal depressions. Bedside echo showing dilated aortic 
root with moderate to severe aortic regurg, bicuspid valve. 
After discussion with interventional attending, decision made to 
hold urgent cath and evaluate for aortic dissection given 
atypical presentation for STEMI. CTA did not show evidence of 
dissection on prelim and attending read (Dr. ___. Initial 
troponin was negative. Discussion with ED to continue 
observation, ___ troponin and re-evaluation before decision on 
transfer. However, patient was transferred to the floor after 
first troponin. On route to floor, patient became nauseous and 
had bouts of emesis. As soon as patient got to the floor, he 
reported chest discomfort and became hypotensive to the 60's 
systolic. His EKG showed ST elevation in inferior leads largely 
unchanged. He was given a heparin bolus for presumed ACS. Cath 
lab was activated and CT surger was consulted. Bedside echo 
showed a large pericardial effusion with tamponade concerning 
for dissection, and so, heparin ggt was turned off. Transferred 
to the CCU where heparin was reversed with protamine. Reversed 
with protamine afterward. Pericardial drain placed although with 
significant loculation and clots. Initial TEE images without 
clear evidence of dissection, however on closer inspection a 
very thin
dissection flap was identified. Patient became asystolic on the 
table and CPR initiated with insertion of transvenous pacer.  
However, patient unresponsive to CPR and pericardial drain and 
decision made to pronounce patient. Mother was contacted by Dr. 
___ surgeon).

 
Medications on Admission:
Unknown 
 
Discharge Medications:
none
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
deceased
 
Discharge Condition:
as above
 
Discharge Instructions:
as above
 
Followup Instructions:
___